US05023334
Preparation of 4-nitrobenzoic acid [1-(4-pyridinyl)ethylidene]hydrazide, Compound 291
A mixture of 3.62 gm (0.02 mole) of p-nitrobenzhydrazide, 2.42 gm (0.02 mole) of 4-acetylpyridine and 100 ml of absolute ethanol is refluxed 3 hours. Sufficient dimethylformamide is added to the mixture at boiling to give a solution. The hot solution is filtered. The filtrate is diluted with water to the cloud point. The mixture is chilled in the refrigerator. The product is collected, washed with ether and dried to yield 4.46 gm (79%) of the title compound; mp 251.1°.

reactant | p-nitrobenzhydrazide | 0.02 mole, 3.62 gm | [N+](=O)([O-])C1=CC=C(C(=O)NN)C=C1 | C7H7N3O3
reactant | 4-acetylpyridine | 0.02 mole, 2.42 gm | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-nitrobenzoic acid [1-(4-pyridinyl)ethylidene]hydrazide | 4.46 gm, 79% | N1=CC=C(C=C1)C(C)=NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H12N4O3
